US07745438B2
(2R,5R)-5-[(1S,2S)-2-acetylamino-3-(3-fluoro-5-hydroxy-phenyl)-1-hydroxy-propyl]-2-(2-fluoro-1-fluoromethyl-1-methyl-ethoxy)-morpholine-4-carboxylic acid tert-butyl ester
Add acetic anhydride (2.13 mmoles; 201.52 μL) to a solution of (2R,5R)-5-[(1S,2S)-2-amino-3-(3-fluoro-5-hydroxy-phenyl)-1-hydroxy-propyl]-2-(2-fluoro-1-fluoromethyl-1-methyl-ethoxy)-morpholine-4-carboxylic acid tert-butyl ester (2.03 mmoles; 1.00 g) and triethylamine (2.23 mmoles; 311.29 μL) in 10 mL dichloromethane at 0° C. (ice bath) and stir the mixture at 0° C. for 1 h. Concentrate under reduced pressure and subject residue to silica gel chromatography eluting with 40:60 to 0:100 hexane/ethyl acetate gradient to give the desired compound as white solid (950.00 mg, 87.53%).

reactant | acetic anhydride | 2.13 mmoles, 201.52 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | (2R,5R)-5-[(1S,2S)-2-amino-3-(3-fluoro-5-hydroxy-phenyl)-1-hydroxy-propyl]-2-(2-fluoro-1-fluoromethyl-1-methyl-ethoxy)-morpholine-4-carboxylic acid tert-butyl ester | 2.03 mmoles, 1.00 g | C(C)(C)(C)OC(=O)N1C[C@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)O)F)N)O)OC(CF)(C)CF | C22H33F3N2O6
reactant | triethylamine | 2.23 mmoles, 311.29 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (2R,5R)-5-[(1S,2S)-2-acetylamino-3-(3-fluoro-5-hydroxy-phenyl)-1-hydroxy-propyl]-2-(2-fluoro-1-fluoromethyl-1-methyl-ethoxy)-morpholine-4-carboxylic acid tert-butyl ester | 950.00 mg, 87.53% | C(C)(C)(C)OC(=O)N1C[C@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)O)F)NC(C)=O)O)OC(CF)(C)CF | C24H35F3N2O7
